Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROSURGERY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
anterior communicating artery aneurysm 
 
Major Surgical or Invasive Procedure:
___: Coiling of AComm aneurysm

 
History of Present Illness:
___ male with developmental delay who had an incidental 
finding of anterior communicating artery aneurysm and 
right-sided internal carotid artery occlusion electively 
admitted for planned for endovascular coiling of ACOMM aneurysm. 


 
Past Medical History:
cognitive disabilty
Acomm aneurysm
HTN
Neuropathy
Stroke
Headaches
COPD
sx;Hernia repair
smokes 2ppd x ___ yrs
 
Social History:
___
Family History:
There is no family history of brain aneurysms or vascular 
malformations.
 
Physical Exam:
UPON DISCHARGE:
Opens eyes: [x]spontaneous [ ]to voice [ ]to noxious
Orientation: [x]Person [x]Place [x]Time
Follows commands: [ ]Simple [x]Complex [ ]None
Pupils:  Right     ___    Left   ___
EOM: [x]Full [ ]Restricted
Face Symmetric: [x]Yes [ ]No
Tongue Midline: [ ]Yes [x]No - deviates left
Pronator Drift [ ]Yes [x]No     
Speech Fluent: [x]No - baseline dysarthria 
Comprehension intact [x]Yes [ ]No

Motor:
TrapDeltoidBicepTricepGrip
___

IPQuadHamATEHLGast
___         5
___         5

Angio Groin Site: 
[x]Ecchymosis surrounding puncture site
[x]Soft 
[x]Palpable pulses

 
Pertinent Results:
Please refer to OMR for relevant imaging and lab results.
 
Brief Hospital Course:
___ year old male electively admitted for planned coiling of 
AComm aneurysm.  

#Anterior communicating artery aneurysm 
The patient did well post-procedure and was monitored in the 
neuroscience intermediate care unit. He remained neurologically 
and hemodynamically stable.  On POD#2, he was noted to have an 
area of ecchymosis at his puncture site; he denied pain and had 
palpable distal pulses.  Ultrasound was negative for hematoma or 
pseudoaneurysm. Social work was consulted who spoke with the 
family to ensure safe discharge home.  On POD#2, he was 
discharged home in stable condition with ___ services.

 
Medications on Admission:
Atorvastin, Azelastine ? dose,buspirone 30 mg bid, carbamazepine 
ER 200mg  1 tab am 2 tab pm, plavix 75 ___, gabpentin 400 mg HS, 
motrin  400 bid, lisinopril 40 ___, lorazepam 1 mg TID, 
risperidone 4 mg BID, venlafaxine ER 150 mg 2 caps ___ 
ER 180 mg ___ 325 ___, Flonase 50 mcg 2 spray ea nostril
NIMU Team Template

 
Discharge Medications:
1.  Acetaminophen 325-650 mg PO Q6H:PRN fever or pain  
2.  Docusate Sodium 100 mg PO BID  
3.  Nystatin Ointment 1 Appl TP QID:PRN ___ in groin crease  

RX *nystatin 100,000 unit/gram 1 application to groin rash QID 
PRN Refills:*0 
4.  OxyCODONE (Immediate Release) ___ mg PO Q4H:PRN pain 
RX *oxycodone 5 mg ___ tablet(s) by mouth Q4H PRN Disp #*24 
Tablet Refills:*0 
5.  Aspirin 325 mg PO DAILY 
RX *aspirin 325 mg 1 tablet(s) by mouth daily Disp #*30 Tablet 
Refills:*2 
6.  Atorvastatin 40 mg PO QPM  
7.  BusPIRone 30 mg PO BID  
8.  Carbamazepine (Extended-Release) 200 mg PO QAM  
9.  Carbamazepine (Extended-Release) 400 mg PO QPM  
10.  Fluticasone Propionate NASAL 2 SPRY NU DAILY  
11.  Gabapentin 400 mg PO QHS  
12.  Lisinopril 40 mg PO DAILY  
13.  LORazepam 1 mg PO TID  
14.  RisperiDONE 4 mg PO BID  
15.  Venlafaxine XR 300 mg PO DAILY  
16.  Verapamil SR 180 mg PO Q24H  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Anterior Communicating Artery Aneurysm 
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).
 
Discharge Instructions:
Activity
 You may gradually return to your normal activities, but we 
recommend you take it easy for the next ___ hours to avoid 
bleeding from your groin.
 Heavy lifting, running, climbing, or other strenuous exercise 
should be avoided for ten (10) days. This is to prevent bleeding 
from your groin.
 You make take leisurely walks and slowly increase your 
activity at your own pace. ___ try to do too much all at once.
 Do not go swimming or submerge yourself in water for five (5) 
days after your procedure.
 You make take a shower.

Medications
 Resume your normal medications and begin new medications as 
directed.
 You have been instructed by your doctor to take one ___ a 
day. Do not take any other products that have aspirin in them. 
If you are unsure of what products contain Aspirin, ask your 
pharmacist or call our office.
 You may use Acetaminophen (Tylenol) for minor discomfort if 
you are not otherwise restricted from taking this medication.
 If you take Metformin (Glucophage) you may start it again 
three (3) days after your procedure.

Care of the Puncture Site
 Keep the site clean with soap and water and dry it carefully.
 You may use a band-aid if you wish.

What You ___ Experience:
 Mild tenderness and bruising at the puncture site (groin).
 Soreness in your arms from the intravenous lines.
 Mild to moderate headaches that last several days to a few 
weeks.
 Fatigue is very normal
 Constipation is common. Be sure to drink plenty of fluids and 
eat a high-fiber diet. If you are taking narcotics (prescription 
pain medications), try an over-the-counter stool softener.

When to Call Your Doctor at ___ for:
 Severe pain, swelling, redness or drainage from the puncture 
site. 
 Fever greater than 101.5 degrees Fahrenheit
 Constipation
 Blood in your stool or urine
 Nausea and/or vomiting
 Extreme sleepiness and not being able to stay awake
 Severe headaches not relieved by pain relievers
 Seizures
 Any new problems with your vision or ability to speak
 Weakness or changes in sensation in your face, arms, or leg

 
Followup Instructions:
___